US05650533
Concentrated hydrochloric acid (128 ml) was added slowly to a suspension of 2-methylsulphenyl-4-nitrotoluene (36.6 g) in methanol. Iron powder (36 g) was added with stirring whilst maintaining the temperature below 50° C. The mixture was stirred at room temperature for 4 hours. The-mixture was poured into water, neutralized (by the addition of sodium carbonate), filtered and the residue was extracted with dichloromethane. The aqueous layer was extracted with dichloromethane and the combined organic layers were washed with aqueous sodium chloride solution, dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness and the residue was purified by column chromatography on silica eluted with a mixture of ethyl acetate and n-hexane to give 4-methyl-3-methylsulphenylaniline (12.8 g) as an orange solid, NMR (CDCl3) 2.2(s,3H), 2.35 (s,3H), 3..4.5 (s,2H), 6.1-6.9 (m,3H).

reactant | hydrochloric acid | 128 ml | Cl | ClH
reactant | 2-methylsulphenyl-4-nitrotoluene | 36.6 g | CSC1=C(C=CC(=C1)[N+](=O)[O-])C | C8H9NO2S
reactant | water | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
catalyst | Iron | 36 g | [Fe] | Fe
product | 4-methyl-3-methylsulphenylaniline | 12.8 g | CC1=C(C=C(N)C=C1)SC | C8H11NS
